US05347039
By carrying out the reaction as in Example 9 but starting from 500 mg of S-t-butyl 5-Phenyl-5-hydroxy-3-oxopentanethioate (1.78 mmol), 0.49 cm3 of titanium chloride triisopropoxide (1.96 mmol) and from 131.9 mg of sodium cyanoborohydride, there is obtained, after 3 hours 40 minutes, with a yield of 79.5%, 400 mg of S-t-butyl 5-phenyl-3,5-dihydroxypentanethioate for which the syn/anti ratio is equal to 90/10.

reactant | S-t-butyl 5-Phenyl-5-hydroxy-3-oxopentanethioate | 1.78 mmol, 500 mg | C1(=CC=CC=C1)C(CC(CC(SC(C)(C)C)=O)=O)O | C15H20O3S
reactant | sodium cyanoborohydride | 131.9 mg | C(#N)[BH3-].[Na+]
catalyst | titanium chloride triisopropoxide | 1.96 mmol, 0.49 cm3 | CC([O-])C.CC([O-])C.CC([O-])C.[Cl-].[Ti+4]
product | S-t-butyl 5-phenyl-3,5-dihydroxypentanethioate | 400 mg, yield of 79.5% | C1(=CC=CC=C1)C(CC(CC(SC(C)(C)C)=O)O)O | C15H22O3S
